US07994185B2
Step A: Methyl 4-fluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}benzoate
To a solution of methyl 3-amino-4-fluorobenzoate (109 g, 644 mmol) in THF (2000 mL), saturated NaHCO3 (68 g, 805 mmol) was added. Then 2-propen-1-yl chloridocarbonate (93 g, 773 mmol) was added dropwise at 0° C. The mixture was stirred at rt for 2 h. The solution was extracted with EtOAc (500 mL×3). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product (160 g, 98%), which was used in the next step directly. 1H NMR (400 MHz, CDCl3) δ ppm 8.72-8.81 (m, 1H), 7.71-7.79 (m, 1H), 7.09-7.16 (m, 1H), 6.87-6.94 (br, 1H), 5.91-6.03 (m, 1H), 5.41 (d, J=17.1 Hz, 1H), 5.28 (d, J=10.5, 1H), 4.70 (d, J=10.5 Hz, 1H), 4.70 (d, J=5.5 Hz, 2H), 3.90 (s, 3H).

reactant | methyl 3-amino-4-fluorobenzoate | 644 mmol, 109 g | NC=1C=C(C(=O)OC)C=CC1F | C8H8FNO2
reactant | NaHCO3 | 805 mmol, 68 g | C(=O)(O)[O-].[Na+]
reactant | THF | 2000 mL | C1CCOC1 | C4H8O
product | Methyl 4-fluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}benzoate | 160 g, 98% | FC1=C(C=C(C(=O)OC)C=C1)NC(=O)OCC=C | C12H12FNO4
